* C:\Users\Daniel A\Documents\LTspiceXVII\Draft1.asc
;Circuito práctica 2
Vin 1 0   AC 1 ;pulse (0V,5V,0s,1ns,1ns,1ms,2ms)
R1 1 2 1.2K
R2 2 3 1.2k
R3 2 0 15K
L1 3 0 6.58mH
;.tran 100us 10ms 1us
.ac dec 10 1Hz 2000KHz
;.tran 1us 2ms
.end
.backanno
.end
